US08557872B2
To a solution of N-methoxy-N-methyl-2-amino-4-fluoro-benzamide (0.20 g, 1.01 mmol), acetaldehyde (86 μL, 1.53 mmol), and AcOH (87 μL, 2.1 mmol) in dichloromethane (20 mL) was added sodium triacetoxyborohydride (430 mg, 2.03 mmol) at 5° C. The mixture was stirred for 90 minutes at the same temperature and then 40 minutes at room temperature. The reaction was quenched by adding water. The organic layer was washed with saturated aqueous NaHCO3 solution and brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure to give N-methoxy-N-methyl-4-fluoro-2-ethylamino-benzamide quantitatively.

reactant | N-methoxy-N-methyl-2-amino-4-fluoro-benzamide | 1.01 mmol, 0.20 g | CON(C(C1=C(C=C(C=C1)F)N)=O)C | C9H11FN2O2
reactant | acetaldehyde | 1.53 mmol, 86 μL | C(C)=O | C2H4O
reactant | AcOH | 2.1 mmol, 87 μL | CC(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.03 mmol, 430 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | N-methoxy-N-methyl-4-fluoro-2-ethylamino-benzamide | CON(C(C1=C(C=C(C=C1)F)NCC)=O)C | C11H15FN2O2
